US08703951B2
4-Chlorobenzoylchloride (7.2 g, 41.0 mmol was added dropwise to a stirring solution of benzothiazole (5.4 g, 40.0 mmol) in dichloromethane (40 mL) under argon atmosphere. A catalytic amount of AlCl3 and trimethylsilylcyanide (4.1 g, 42.0 mmol) were than added into the reaction mixture. After being stirred for 15 h at room temperature, the reaction mixture was evaporated to dryness in vacuo and the residue was triturated with ether to give 3-(4-chlorobenzoyl)-2,3-dihydrobenzo[d]thiazole-2-carbonitrile, 10.1 g (84%); mp 115-117° C. (lit.21 mp 115-118° C.). 1H NMR (DMSO-d6) δ 6.75 (1H, brs, C2-H), 6.85 (1H, s, ArH), 7.05-7.09 (1H, m, ArH), 7.13-7.17 (1H, m, ArH), 7.52-7.54 (1H, m, ArH), 7.58-7.61 (4H, m, 4×ArH).

reactant | 4-Chlorobenzoylchloride | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | benzothiazole | 40.0 mmol, 5.4 g | S1C=NC2=C1C=CC=C2 | C7H5NS
reactant | AlCl3 | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | trimethylsilylcyanide | 42.0 mmol, 4.1 g | C[Si](C)(C)C#N | C4H9NSi
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | 3-(4-chlorobenzoyl)-2,3-dihydrobenzo[d]thiazole-2-carbonitrile | ClC1=CC=C(C(=O)N2C(SC3=C2C=CC=C3)C#N)C=C1 | C15H9ClN2OS
